US08975400B2
2-((2-chloropyridin-4-yl)oxy)-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (65 mg, 0.350 mmol), sodium hydride (22 mg, 0.550 mmol) and 2-((2-chloropyridin-4-yl)oxy)-5-(hydroxymethyl)benzonitrile (91 mg, 0.350 mmol) in DMF (2 mL).

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.350 mmol, 65 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 0.550 mmol, 22 mg | [H-].[Na+]
reactant | 2-((2-chloropyridin-4-yl)oxy)-5-(hydroxymethyl)benzonitrile | 0.350 mmol, 91 mg | ClC1=NC=CC(=C1)OC1=C(C#N)C=C(C=C1)CO | C13H9ClN2O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-((2-chloropyridin-4-yl)oxy)-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)benzonitrile | ClC1=NC=CC(=C1)OC1=C(C#N)C=C(C=C1)COC=1C=C2N(C(N1)=O)CCN2C | C20H16ClN5O3
